US07482350B2
Step 4. Preparation of 2-(2,6-diethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methyl-6-piperazin-1-ylpyrimidine
To tert-butyl 4-{2-(2,6-diethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidin-4-yl}piperazine-1-carboxylate (228 mg, 0.40 mmol) is added trifluoroacetic acid (2 mL). Gas evolution ensues and rapidly subsides. Toluene (10 mL) is added and removed under reduced pressure. The resulting residue is dissolved in EtOAc (25 mL) and extracted with saturated potassium carbonate (10 mL) followed by brine (10 mL), dried over sodium sulfate, filtered and evaporated at reduced pressure to obtain the title compound as a colorless oil. LC/MS (Method 3), M+H=473.2, Rt=2.35 min.; 1H NMR (CDCl3) δ=7.26 (d, 1H), 7.12 (d, 3H), 6.83 (m, 2H), 4.99 (s, 2H), 3.49 (m, 8H), 2.91 (m, 1H), 2.56, (s, 3H), 2.42 (q, 4H) 2.24 (s, 3H), 1.42 (s, 9H), 1.28 (d, 6H), 1.13 (t, 6H).

reactant | tert-butyl 4-{2-(2,6-diethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidin-4-yl}piperazine-1-carboxylate | 0.40 mmol, 228 mg | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)COC1=C(C=CC(=C1)C(C)C)C)C | C35H48N4O3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-diethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methyl-6-piperazin-1-ylpyrimidine | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)C)COC1=C(C=CC(=C1)C(C)C)C)N1CCNCC1 | C30H40N4O
